### PR TITLE
[Merged by Bors] - feat(Analysis/Normed): norm and {List, Multiset}.prod commute

### PR DESCRIPTION
**Pull request by wwylele**
Similar to Finset.prod lemmas above, provides convenient rewriting lemma.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
easy

File: Mathlib/Analysis/Normed/Ring/Basic.lean
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:774]: might as well also add the list versions too?
```lean
@[simp] theorem List.norm_prod_map (s : List β) (f : β → α) :
    ‖(s.map f).prod‖ = (s.map (‖f ·‖)).prod := by
  aesop (add simp List.norm_prod)

@[simp] theorem List.nnnorm_prod_map (s : List β) (f : β → α) :
    ‖(s.map f).prod‖₊ = (s.map (‖f ·‖₊)).prod := by
  aesop (add simp List.nnnorm_prod)
```

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 1]
```diff
@@ -786,6 +786,16 @@ theorem norm_prod (s : Finset β) (f : β → α) : ‖∏ b ∈ s, f b‖ = ∏
 theorem nnnorm_prod (s : Finset β) (f : β → α) : ‖∏ b ∈ s, f b‖₊ = ∏ b ∈ s, ‖f b‖₊ :=
   map_prod nnnormHom.toMonoidHom f s
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:798]: and can you add here
```lean
protected theorem Multiset.norm_prod (l : Multiset α) : ‖l.prod‖ = (l.map norm).prod :=
  map_multiset_prod (normHom.toMonoidHom : α →* ℝ) _

protected theorem Multiset.nnnorm_prod (l : Multiset α) : ‖l.prod‖₊ = (l.map nnnorm).prod :=
  map_multiset_prod (nnnormHom.toMonoidHom : α →* ℝ≥0) _
```
these already exist for `List`

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 2]
```diff
@@ -786,6 +786,16 @@ theorem norm_prod (s : Finset β) (f : β → α) : ‖∏ b ∈ s, f b‖ = ∏
...
 
+@[simp]
+theorem Multiset.norm_prod_map (s : Multiset β) (f : β → α) :
+    ‖(s.map f).prod‖ = (s.map (‖f ·‖)).prod := by
+  simpa using normHom.toMonoidHom.map_multiset_prod (s.map f)
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Ring/Basic.lean]: then the proofs of these can be:

```suggestion
  simp [Multiset.norm_prod]
```

**Comment by wwylele** [comment]
Thanks for the suggestion!
-awaiting-author

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
